US06017919
LAH (2.82 g, 0.15 mol, 1.5 eq) was dissolved in THF (50 ml), and to this solution was added dropwise a THF solution (50 ml) of 4-benzyloxyphenyl-acetonitrile (11.1 g, 0.05 mol, 1.0 eq) under ice-cooling. After the completion of the dropwise addition, the mixture was refluxed under heating for 1.5 hours. The reaction mixture was cooled to room temperature, and a saturated aqueous sodium sulfate solution (about 40 ml) was added under ice-cooling. After filtration through Celite, the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography (chloroform/methanol=10/1) to give 2-(4-benzyloxyphenyl)ethylamine (2.02 g, 17.9%) as colorless needles.

reactant | LAH | 0.15 mol, 2.82 g, 1.5 eq | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-benzyloxyphenyl-acetonitrile | 0.05 mol, 11.1 g, 1.0 eq | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC#N | C15H13NO
reactant | sodium sulfate | about 40 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(4-benzyloxyphenyl)ethylamine | 2.02 g, 17.9% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCN | C15H17NO
